US06693123B2
[4-(3-Pyridyloxymethyl)-2-phenylbenzoyl]alanine Methyl Ester
To a solution of 100 mg (0.33 mmol) of 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid, L-alanine methyl ester hydrochloride (1.5 mmol), 69 mg (0.36 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, and 59 mg (0.36 mmol) of 3-hydroxy1,2,3-benzotriazin-4(3H)-one in 1 mL of N,N-dimethylformamide was added 5 drops of triethylamine. The mixture was stirred at ambient temperature for 24 hours, then poured into 10 mL of 0.6M aqueous sodium bicarbonate and extracted with ethyl acetate (3×5 mL). The combined ethyl acetate layers were back extracted with water (2×5 mL), then brine (1×5 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. The product was purified via chromatography over silica gel, eluting with an appropriate mixture of hexanes and ethyl acetate.

reactant | 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid | 0.33 mmol, 100 mg | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H15NO3
reactant | L-alanine methyl ester hydrochloride | 1.5 mmol | Cl.COC([C@@H](N)C)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.36 mmol, 69 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-hydroxy1,2,3-benzotriazin-4(3H)-one | 0.36 mmol, 59 mg | ON1N=NC2=C(C1=O)C=CC=C2 | C7H5N3O2
reactant | sodium bicarbonate | 0.6M, 10 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
product | [4-(3-Pyridyloxymethyl)-2-phenylbenzoyl]alanine Methyl Ester | COC([C@@H](NC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=CC=CC=C1)=O)C)=O | C23H22N2O4
